US07960395B2
a) 4-(1-Chloroethyl)-3-fluoropyridine
1-(3-fluoropyridin-4-yl)ethanol (0.8 g, 5.7 mmol) was treated with thionyl chloride (5 mL) and the resulting mixture was heated to 80° C. for 2 h. Water (10 mL) and sat. sodium bicarbonate (aq., 10 mL) was added. The product was extracted with DCM (three times). The combined organic extracts were washed with brine, dried over sodium sulphate and concentrated in vacuo. The crude product was purified by flash column chromatography (eluent heptane: ethyl acetate gradient) to yield 0.36 g (39% yield) of the title compound.

reactant | 1-(3-fluoropyridin-4-yl)ethanol | 5.7 mmol, 0.8 g | FC=1C=NC=CC1C(C)O | C7H8FNO
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | Water | 10 mL | O | H2O
product | 4-(1-Chloroethyl)-3-fluoropyridine | 0.36 g, 39% yield | ClC(C)C1=C(C=NC=C1)F | C7H7ClFN
